US07329662B2
5-(4-Ethoxy-3-trifluoromethyl-phenyl)-3-pyridin-3-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(4-ethoxy-3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (164 mg, 0.5 mmol), prepared from 4-ethoxy-3-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 3-amino-4-(3-pyridinyl)-pyrazole [CAS No. 40545-68-2; prepared from 3-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (80 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (155 mg, 68%). MS (ISP) 453.5 [(M+H)+]; mp 178° C.

reactant | 1-(4-ethoxy-3-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 164 mg | C(C)OC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)C(F)(F)F | C13H10F6O3
reactant | 3-amino-4-(3-pyridinyl)-pyrazole | 0.5 mmol, 80 mg | NC1=NNC=C1C=1C=NC=CC1 | C8H8N4
product | 5-(4-Ethoxy-3-trifluoromethyl-phenyl)-3-pyridin-3-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 155 mg, 68% | C(C)OC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C=2C=NC=CC2)C(F)(F)F | C21H14F6N4O
